US07550465B2
Step 4: 4-chloro-8-methoxy-3-methyl-1-propyl-imidazo[1,5-a]-pyrido[3,2-e]-pyrazine
A mixture of 27 g 8-methoxy-3-methyl-1-propyl-imidazo[1,5-a]-pyrido[3,2-e]-pyrazinone and 225 ml phosphorus oxychloride were heated to reflux for 8 hrs. To the cooled mixture 250 ml of toluene were added and then 350 ml of the liquid were distilled off. Subsequently the same procedure was performed with 150 ml toluene but 250 ml of the liquid were distilled off. The reaction mixture was allowed to cool at room temperature and then poured in a mixture of 500 g ice/500 ml water. After 30 minutes the mixture was extracted with 250 ml of dichloromethane for two times. The dichloromethane layer was then washed with 500 ml water then with sodium carbonate (3% in water) and after that with 500 ml water. The organic layer was dried with sodium sulfate. After removal of the sodium sulfate and evaporation of the dichloromethane the crude product was dried in a dry box with vacuum (40° C.).

reactant | 8-methoxy-3-methyl-1-propyl-imidazo[1,5-a]-pyrido[3,2-e]-pyrazinone | 27 g | CON1CN2C(C=NC3=C2N(C(C(=C3)C)=O)CCC)=C1 | C14H18N4O2
reactant | phosphorus oxychloride | 225 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-8-methoxy-3-methyl-1-propyl-imidazo[1,5-a]-pyrido[3,2-e]-pyrazine | ClC1=C(CN(C2=C1N=CC=1N2CN(C1)OC)CCC)C | C14H19ClN4O
